US05882556
Dodecyl mercaptan
PTMP--pentarythritol tetrakis (3-mercapto propionate)

reactant | PTMP | CCOP(=O)(OCC)SCSC1=CC=C(C=C1)Cl | C11H16ClO3PS2
catalyst | tetrakis | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Dodecyl mercaptan | C(CCCCCCCCCCC)S | C12H26S
